US06087381
Trans-cinnamaldehyde (1.84 ml, 14.8 mmol), five drops of piperidine and five drops of acetic acid were added to a solution of 4-pyridyl acetone (2.0 g, 14.8 mmol) in toluene (25 ml). The mixture was heated to reflux for 48 hours with a Dean-Stark trap to remove water. The mixture was concentrated to give a black oil. The oil was purified by silica gel chromatography (eluted with 1:1 hexane/ethyl acetate). The desired fractions were collected, combined and concentrated to give 6-phenyl-3-(4-pyridinyl)hexa-3,5-dien-2-one (628 mg). The ketone was further purified by an additional column chromatography on silica gel (eluting with hexane-ethyl acetate-methylene chloride-methanol (1:1:2:0.12)) (380 mg, 27.3%): Anal. Calc'd for C17H15NO 0.4 H2O: C, 79.91; H, 5.84; N, 5.48. Found: C, 79.72; H, 5.91; N, 5.25. MS (M+H+): 250.

reactant | Trans-cinnamaldehyde | 14.8 mmol, 1.84 ml | C(\C=C\C1=CC=CC=C1)=O | C9H8O
reactant | 4-pyridyl acetone | 14.8 mmol, 2.0 g | N1=CC=C(C=C1)CC(C)=O | C8H9NO
catalyst | piperidine | five drops | N1CCCCC1 | C5H11N
catalyst | acetic acid | five drops | C(C)(=O)O | C2H4O2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 6-phenyl-3-(4-pyridinyl)hexa-3,5-dien-2-one | 628 mg | C1(=CC=CC=C1)C=CC=C(C(C)=O)C1=CC=NC=C1 | C17H15NO
